* OVERALL BEST CANDIDATE: 00_Phase_1_9V_to_12V_Custom_Boost_g1_cand3_b5
* FITNESS SCORE: 0.9721
*
* Generated: 2026-05-31T21:31:48
* Constraint: Phase 1: 9V to 12V Custom (Boost)
*   vin_min = 8
*   vin_max = 10
*   vout_target = 12
*   efficiency_target = 0.8
*   power_in = 15
* Candidate: 3 of 8
* Grouped name: g1_cand3
*
* 8V to 12V Boost, 15W
Vin in 0 8
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 0.96
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
